US05801245
Preparation of 2,3-dichloro-6-nitrotoluene
208 mmole concentrated nitric acid and 270 mmole concentrated sulfuric acid were mixed and cooled to ambient temperature. 200 mmole 2,3-dichlorotoluene was added to a reaction flask and was cooled in an ice-water bath. The acid mixture was added slowly with stirring to the dichlorotoluene keeping the dichlorotoluene in the ice-water bath. After all the acid had been added, the mixture in the ice-water bath was stirred for about 10 minutes. A drying tube was attached to the reaction flask and the reaction mixture warmed to ambient temperature. The reaction mixture was heated at 50° C. with stirring for three hours.

reactant | nitric acid | 208 mmole | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 270 mmole | S(O)(O)(=O)=O | H2O4S
reactant | 2,3-dichlorotoluene | 200 mmole | ClC1=C(C=CC=C1Cl)C | C7H6Cl2
reactant | dichlorotoluene | ClC=1C(=C(C=CC1)C)Cl | C7H6Cl2
product | 2,3-dichloro-6-nitrotoluene | ClC1=C(C(=CC=C1Cl)[N+](=O)[O-])C | C7H5Cl2NO2
